US07579351B2
(S)-8-(1-Isopropyl-piperidin-4-yloxy)-3-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 1, from (S)-8-hydroxy-3-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, 1-isopropyl-piperidin-4-ol (commercially available), triphenylphosphine and di-tert-butyl-azodicarboxylate, to give the desired product as a light yellow solid (46%).

reactant | (S)-8-hydroxy-3-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | OC1=CC=2C=C3N(C2C=C1)C[C@@H](NC3=O)C | C12H12N2O2
reactant | 1-isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl-azodicarboxylate | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
product | (S)-8-(1-Isopropyl-piperidin-4-yloxy)-3-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 46% | C(C)(C)N1CCC(CC1)OC1=CC=2C=C3N(C2C=C1)C[C@@H](NC3=O)C | C20H27N3O2
